US08871796B2
5-(3-Bromophenyl)-2-(2-hydroxyethyl)-1,2-dihydro-3H-pyrazol-3-one (21 g, 74 mmol), 4-trifluoromethyl-1-fluorobenzene (28 mL, 220 mmol), and K2CO3 (30.6 g, 220 mmol) were combined in 140 mL of dry DMA. The mixture was heated at 160° C. with stirring in a sealed vessel for 13 h. The reaction was cooled to ambient temperature and more 4-trifluoromethyl-1-fluorobenzene (5 mL, 39 mmol) was added. The mixture was heated at 160° C. with stirring in a sealed vessel for 18 h. The reaction was cooled to ambient temperature and diluted with EtOAc. The mixture was washed with water and brine, then dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The dark residue was chromatographed on a 330 g silica gel column using 0-40% EtOAc:hexanes over 70 min at 100 mL/min. The product-containing fractions were combined and the solvent was removed under reduced pressure to give 2-{3-(3-bromophenyl)-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-1-yl}ethanol as an oil which solidified on standing. Calcd (M−1-1)+: 428.2. Found: 428.3

reactant | 5-(3-Bromophenyl)-2-(2-hydroxyethyl)-1,2-dihydro-3H-pyrazol-3-one | 74 mmol, 21 g | BrC=1C=C(C=CC1)C1=CC(N(N1)CCO)=O | C11H11BrN2O2
reactant | 4-trifluoromethyl-1-fluorobenzene | 220 mmol, 28 mL | FC(C1=CC=C(C=C1)F)(F)F | C7H4F4
reactant | K2CO3 | 220 mmol, 30.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-trifluoromethyl-1-fluorobenzene | 39 mmol, 5 mL | FC(C1=CC=C(C=C1)F)(F)F | C7H4F4
solvent | DMA | 140 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{3-(3-bromophenyl)-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-1-yl}ethanol | BrC=1C=C(C=CC1)C1=NN(C(=C1)OC1=CC=C(C=C1)C(F)(F)F)CCO | C18H14BrF3N2O2
